US06759554B2
N-(3-Hydroxymethylphenyl)-2-pyrrolidinone
A Schlenk tube was charged with CuI (9.6 mg, 0.050 mmol, 5.0 mol %) and K3PO4 (430 mg, 2.03 mmol), evacuated and backfilled with argon. N,N′-Dimethylethylenediamine (11 μL, 0.10 mmol, 10 mol %), 3-iodobenzyl alcohol (128 μL, 1.01 mmol), 2-pyrrolidinone (94 μL, 1.24 mmol) and toluene (1.0 mL) were added under argon. The Schlenk tube was sealed with a Teflon valve and the reaction mixture was stirred at 80° C. for 3 h. The resulting white suspension was allowed to reach room temperature and filtered through a 0.5×1 cm pad of silica gel eluting with 5:1 ether-methanol (10 mL). The filtrate was concentrated and the residue was purified by flash chromatography on silica gel (2×20 cm; dichloromethane-methanol 25:1; 15 mL fractions). Fractions 14-19 provided 180 mg (93% yield) of the product as a white solid. Mp: 120-121° C.

reactant | K3PO4 | 2.03 mmol, 430 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | N,N′-Dimethylethylenediamine | 0.10 mmol, 11 μL | CNCCNC | C4H12N2
reactant | 3-iodobenzyl alcohol | 1.01 mmol, 128 μL | IC=1C=C(CO)C=CC1 | C7H7IO
reactant | 2-pyrrolidinone | 1.24 mmol, 94 μL | N1C(CCC1)=O | C4H7NO
catalyst | CuI | 0.050 mmol, 9.6 mg | [Cu]I
solvent | toluene | 1.0 mL | C1(=CC=CC=C1)C | C7H8
product | N-(3-Hydroxymethylphenyl)-2-pyrrolidinone | 180 mg, 93% yield | OCC=1C=C(C=CC1)N1C(CCC1)=O | C11H13NO2
